US07446122B2
COMPOUND 16: 4-[1-ETHYL-1-(2-HYDROXY-ETHYL)-6-ISOPROPYL-1,3,4,9-TETRAHYDRO-PYRANO[3,4-b]INDOL-8-YL]-BENZOIC ACID
The title compound is prepared in a manner analogous to Example 1, except using 2-(8-bromo-1-ethyl-6-isopropyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-ethanol and 4-carboxylphenylboronic acid in step 1.F.

reactant | 2-(8-bromo-1-ethyl-6-isopropyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-1-yl)-ethanol | BrC=1C=C(C=C2C3=C(NC12)C(OCC3)(CC)CCO)C(C)C | C18H24BrNO2
reactant | 4-carboxylphenylboronic acid | B(C1=CC=C(C=C1)C(=O)O)(O)O | C7H7BO4
product | 4-[1-ETHYL-1-(2-HYDROXY-ETHYL)-6-ISOPROPYL-1,3,4,9-TETRAHYDRO-PYRANO[3,4-b]INDOL-8-YL]-BENZOIC ACID | C(C)C1(OCCC2=C1NC1=C(C=C(C=C21)C(C)C)C2=CC=C(C(=O)O)C=C2)CCO | C25H29NO4
